US09447090B2
A mixture of 620 mg of tert-butyl[(1R,2R)-2,3-dihydroxy-1-phenylpropyl]carbamate, 0.37 g of tert-butyldimethylchlorosilane, 0.19 g of imidazole, and 9.3 ml of dichloromethane was stirred for 2 hours. To the reaction mixture were added water and ethyl acetate to carry out a layer separation operation. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 705 mg of tert-butyl[(1R,2R)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-hydroxy-1-phenylpropyl]carbamate.

reactant | tert-butyl[(1R,2R)-2,3-dihydroxy-1-phenylpropyl]carbamate | 620 mg | C(C)(C)(C)OC(N[C@@H]([C@H](CO)O)C1=CC=CC=C1)=O | C14H21NO4
reactant | tert-butyldimethylchlorosilane | 0.37 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 0.19 g | N1C=NC=C1 | C3H4N2
reactant | dichloromethane | 9.3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-butyl[(1R,2R)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-hydroxy-1-phenylpropyl]carbamate | 705 mg | C(C)(C)(C)OC(N[C@@H]([C@H](CO[Si](C)(C)C(C)(C)C)O)C1=CC=CC=C1)=O | C20H35NO4Si
